US07067537B2
ii) Production of 1-(4-ethylpyridin-3-yl)ethanone
Magnesium (7.90 g) was suspended in t-butylmethyl ether (300 ml) and iodine (20 mg) was added. Methyl iodide (20 ml) was added dropwise while maintaining the mixture at not higher than 25° C. The mixture was stirred at room temperature for 3 hrs. to give a solution of methylmagnesium iodide in t-butylmethyl ether. To a solution of 4-ethylnicotinonitrile (2.00 g) in toluene (30 ml), which was cooled to −10° C., was gradually added a solution (45 ml) of methylmagnesium iodide in t-butylmethyl ether and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was added to 1N hydrochloric acid (80 ml) and the mixture was stirred at room temperature for 30 min. Sodium bicarbonate was added to neutralize the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=20:1–1:3) for purification to give the title compound (1.84 g) as a yellow oil.

reactant | 4-ethylnicotinonitrile | 2.00 g | C(C)C1=CC=NC=C1C#N | C8H8N2
reactant | methylmagnesium iodide | 45 ml | C[Mg]I
reactant | hydrochloric acid | 1N, 80 ml | Cl | ClH
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | t-butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 1-(4-ethylpyridin-3-yl)ethanone | 1.84 g | C(C)C1=C(C=NC=C1)C(C)=O | C9H11NO
